Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Ulcerative colitis 
 
Major Surgical or Invasive Procedure:
Laparoscopic total abdominal colectomy, end ileostomy, 
superficial duodenal injury

 
History of Present Illness:
___ with ulcerative colitis for ___ years, currently on
prednisone 30mg' and Entyvio with low grade dysplastic adenoma
(3cm) in the rectum pending surgical evaluation. Patient has
occasional bloody bowel movements every few days, and ___
non-bloody bowel movements 3 times a day. Patient still 
complains
of urgency. Of significance, patient has been now on prednisone
for one year. When patient has been weaned off of prednisone, 
she
has worsening Crohn's exacerbation. Patient continues to have
severe proctocolitis with two separate adenomas with histology
demonstrating low grade dysplasia. One lesion was at 25cm, and
most recently a 3cm adenoma at 10cm. Patient states that she
prefers surveillance over surgery. However, she does understand
that her risk of cancer is roughly ___. 
 
Past Medical History:
PMH: Ulcerative colitis, uterine fibroids, osteoporosis,
depression

PSH: Open myomectomy ___
 
Social History:
___
Family History:
No family of IBD, no family history of colon cancer.
 
Physical Exam:
Discharge Physical Exam:

Vitals: 24 HR Data (last updated ___ @ 1532)
    Temp: 98.0 (Tm 98.4), BP: 114/75 (104-119/63-82), HR: 91
(63-91), RR: 18 (___), O2 sat: 96% (93-98), O2 delivery: RA,
Wt: 143.8 lb/65.23 kg
Fluid Balance (last updated ___ @ 1408)
  Last 8 hours  Total cumulative 660ml
    IN: Total 1080ml, PO Amt 1080ml
    OUT:  Total 420ml, Urine Amt 275ml, JP 20ml, Ostomy 125ml
  Last 24 hours  Total cumulative 27ml
    IN: Total 2632ml, PO Amt 2100ml, IV Amt Infused 532ml
    OUT:  Total 2605ml, Urine Amt 2075ml, JP 80ml, Ostomy 450ml

Physical exam:
Gen: NAD, AxOx3
Card: hemodynamically stable
Pulm: No respiratory distress
Abd: Soft, non-tender, non-distended, patent stoma productive of 
both gas and stool 
Wounds: c/d/i
Ext: No edema, warm well-perfused
 
Pertinent Results:
___ 06:56AM BLOOD WBC-11.1* RBC-4.40 Hgb-13.8 Hct-43.1 
MCV-98 MCH-31.4 MCHC-32.0 RDW-13.2 RDWSD-46.4* Plt ___
___ 06:31AM BLOOD WBC-8.1 RBC-4.37 Hgb-13.9 Hct-43.6 
MCV-100* MCH-31.8 MCHC-31.9* RDW-13.2 RDWSD-48.4* Plt ___
___ 06:50AM BLOOD WBC-7.6 RBC-4.12 Hgb-13.1 Hct-40.3 MCV-98 
MCH-31.8 MCHC-32.5 RDW-13.0 RDWSD-45.7 Plt ___
___ 06:50AM BLOOD WBC-7.6 RBC-4.12 Hgb-12.8 Hct-40.1 MCV-97 
MCH-31.1 MCHC-31.9* RDW-12.7 RDWSD-44.8 Plt ___
___ 09:23AM BLOOD WBC-8.5 RBC-4.12 Hgb-12.9 Hct-40.2 MCV-98 
MCH-31.3 MCHC-32.1 RDW-12.6 RDWSD-45.1 Plt ___
___ 08:30AM BLOOD WBC-12.0* RBC-3.86* Hgb-12.3 Hct-37.9 
MCV-98 MCH-31.9 MCHC-32.5 RDW-12.5 RDWSD-45.1 Plt ___
___ 07:02AM BLOOD WBC-10.7* RBC-3.59* Hgb-11.4 Hct-35.9 
MCV-100* MCH-31.8 MCHC-31.8* RDW-12.6 RDWSD-46.3 Plt ___
___ 06:49AM BLOOD WBC-8.4 RBC-3.32* Hgb-10.6* Hct-33.3* 
MCV-100* MCH-31.9 MCHC-31.8* RDW-13.1 RDWSD-48.0* Plt ___
___ 06:56AM BLOOD Glucose-88 UreaN-12 Creat-0.7 Na-144 
K-4.3 Cl-103 HCO3-28 AnGap-13
___ 06:31AM BLOOD Glucose-113* UreaN-9 Creat-0.8 Na-144 
K-4.1 Cl-102 HCO3-28 AnGap-14
___ 06:50AM BLOOD Glucose-92 UreaN-10 Creat-0.7 Na-140 
K-4.2 Cl-102 HCO3-28 AnGap-10
___ 06:50AM BLOOD Glucose-94 UreaN-9 Creat-0.7 Na-144 K-4.3 
Cl-104 HCO3-27 AnGap-13
___ 09:23AM BLOOD Glucose-119* UreaN-8 Creat-0.7 Na-143 
K-4.4 Cl-104 HCO3-27 AnGap-12
___ 08:30AM BLOOD Glucose-102* UreaN-8 Creat-0.6 Na-141 
K-3.8 Cl-101 HCO3-29 AnGap-11
___ 07:02AM BLOOD Glucose-95 UreaN-11 Creat-0.6 Na-142 
K-3.7 Cl-103 HCO3-26 AnGap-13
___ 06:49AM BLOOD Glucose-98 UreaN-14 Creat-0.6 Na-143 
K-3.5 Cl-105 HCO3-30 AnGap-8*
___ 06:56AM BLOOD Calcium-9.7 Phos-4.1 Mg-2.2
___ 06:31AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.2
___ 06:50AM BLOOD Calcium-9.4 Phos-4.3 Mg-1.9
___ 06:50AM BLOOD Calcium-9.4 Phos-4.0 Mg-1.9
___ 09:23AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.0
___ 08:30AM BLOOD Calcium-8.8 Phos-2.9 Mg-2.0
___ 07:02AM BLOOD Calcium-8.7 Phos-2.8 Mg-2.0
___ 06:49AM BLOOD Calcium-8.3* Phos-3.0 Mg-2.2
___ 07:02AM BLOOD CRP-53.3*
___ 06:49AM BLOOD CRP-29.0*

Pathology:
Colon and omentum, total colectomy:
-Colon with chronic, focally moderately active colitis, 
extending from the ascending colon to the distal
resection margin with rare skip areas. See note.
-Segment of ileum with no intrinsic mucosal abnormalities 
recognized; proximal ileal resection margin
within normal limits.
-Fibrous obliteration of distal appendix.
-Pericoloic lymph nodes with reactive changes.
Note: No granulomata or transmural inflammation is identified; 
the features are in keeping with
involvement by the patient's known ulcerative colitis. No 
dysplasia is identified upon extensive
sectioning; one focus of hypermucinous change is present 
adjacent to the distal resection margin,
but is also without dysplasia.
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for a 
total abdominal colectomy with end ileostomy. She tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferredto the floor for further 
post-operative management.
Neuro: Pain was well controlled on IV Tylenol and a dilaudid PCA 
while the patient had a nasogastric tube. Once the NGT was 
removed, the patient was transitioned to oral medications 
including Tylenol and tramadol for breakthrough pain which 
adequately controlled her pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. She had good 
pulmonary toileting, as early ambulation and incentive 
spirometry were encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure with 
a nasogastric tube. As the output of the tube decreased and the 
patient had productive ostomy function, the nasogastric tube was 
removed and her diet was sequentially slowly advanced to a 
regular diet which was well tolerated. The patient's intake and 
output were closely monitored. The patient received ileostomy 
teaching from both the floor nurses and ostomy nurses and was 
able to demonstrate adequate understanding and care for the 
stoma prior to discharge.
GU: The patient had a foley catheter that was removed on POD1, 
however the patient failed to void. The foley was replaced and 
sequentially removed on ___ in which the patient was voiding 
without difficulty. Urine output was monitored as indicated. 
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. She was encouraged to get up and 
ambulate as early as possible. The patient is being discharged 
on prophylactic Lovenox. 
On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, productive ostomy function, 
voiding, and ambulating independently. She will follow-up in the 
clinic in ___ weeks. This information was communicated to the 
patientdirectly prior to discharge.
Post-Surgical Complications During Inpatient Admission:
 [ ] Post-Operative Ileus resolving w/o NGT
 [ ] Post-Operative Ileus requiring management with NGT
 [ ] UTI
 [ ] Wound Infection
 [ ] Anastomotic Leak
 [ ] Staple Line Bleed
 [ ] Congestive Heart failure
 [ ] ARF
 [ ] Acute Urinary retention, failure to void after Foley D/C'd
 [ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
 [ ] DVT
 [ ] Pneumonia
 [ ] Abscess
 [x] None
Social Issues Causing a Delay in Discharge:
 [ ] Delay in organization of ___ services
 [ ] Difficulty finding appropriate rehab hospital disposition.
 [ ] Lack of insurance coverage for ___ services
 [ ] Lack of insurance coverage for prescribed medications.
 [ ] Family not agreeable to discharge plan.
 [ ] Patient knowledge deficit related to ileostomy delaying 
dispo
 [x] No social factors contributing in delay of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 30 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
3. BuPROPion XL (Once Daily) 300 mg PO DAILY 
4. BuPROPion XL (Once Daily) 150 mg PO QHS 
5. Diazepam 5 mg PO Q8H:PRN back pain 
6. Alendronate Sodium 70 mg PO QSAT 
7. Sertraline 50 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*22 
Syringe Refills:*0 
2.  PredniSONE 20 mg PO DAILY Duration: 7 Days 
Tapered dose - DOWN 
RX *prednisone 20 mg 1 tablet(s) by mouth once a day Disp #*13 
Tablet Refills:*0 
3.  PredniSONE 15 mg PO DAILY Duration: 7 Days 
Tapered dose - DOWN  
4.  PredniSONE 10 mg PO DAILY Duration: 7 Days 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
5.  PredniSONE 5 mg PO DAILY Duration: 7 Days 
Tapered dose - DOWN 
RX *prednisone 5 mg 1 tablet(s) by mouth once a day Disp #*20 
Tablet Refills:*0 
6.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drink or drive while taking 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*12 Tablet Refills:*0 
7.  PredniSONE 25 mg PO DAILY Duration: 6 Days 
Tapered dose - DOWN  
8.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
9.  Alendronate Sodium 70 mg PO QSAT  
10.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
11.  BuPROPion XL (Once Daily) 150 mg PO QHS  
12.  Diazepam 5 mg PO Q8H:PRN back pain  
13.  Sertraline 50 mg PO DAILY  
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ulcerative colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after a laparoscopic total 
abdominal colectomy with end ileostomy for surgical management 
of your ulcerative colitis. You have recovered from this 
procedure and you are now ready to return home. 
 
You have a new ileostomy and stool no longer passes through the 
colon (part of the body where water and electrolytes are 
reabsorbed back into the body), so your output will be liquid. 
The most common complication from an ileostomy is dehydration. 
You must measure your ileostomy output for the next few weeks- 
please bring your I&O sheet to your post-op appointment. The 
output should be no less than 500cc or greater than 1200cc per 
day. If you find that your output has become too much or too 
little, please call the office. Please monitor for signs and 
symptoms of dehydration. If you notice these symptoms, please 
call the office or go to the emergency room. You will need to 
keep yourself well hydrated, if you notice your ileostomy output 
increasing, drink liquids with electrolytes such as Gatorade.

Please monitor the appearance of your stoma and care for it as 
instructed by the ostomy nurses. ___ you notice that the stoma is 
turning darker blue or purple please call the office or go to 
the emergency room. The stoma may ooze small amounts of blood at 
times when touched which will improve over time. Monitor the 
skin around the stoma for any bulging or signs of infection. You 
will follow up with the ostomy nurses in the clinic ___ weeks 
after surgery. You will also have a visiting nurse at home for 
the next few weeks to help to monitor your ostomy (until you are 
comfortable caring for it on your own).
 
You have one laparoscopic surgical incision on your abdomen 
which is closed with internal sutures.  It is important that you 
monitor this area for signs and symptoms of infection including: 
increasing redness of the incision lines, 
white/green/yellow/foul smelling drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. You may shower; pat the incisions dry with 
a towel, do not rub. Please do not take a bath or swim until 
cleared by the surgical team.
 
Pain is expected after surgery. This will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 
24hours or any other medications that contain Tylenol such as 
cold medication. Do not drink alcohol while taking Tylenol.  You 
may also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should take a dose of the narcotic pain 
medication tramadol.  Please do not take sedating medications, 
drink alcohol, or drive while taking the narcotic pain 
medication. 

You are being discharged home on Lovenox injections to prevent 
blood clots after surgery. You will take this medication for a 
total of 30 days (including doses in hospital), please finish 
the entire prescription. Please monitor for any signs of 
bleeding: fast heart rate, bloody bowel movements, abdominal 
pain, bruising, feeling faint or weak. If you have any of these 
symptoms please call our office or seek medical attention 
immediately. Please avoid any contact activity and take extra 
caution to avoid falling while taking Lovenox.  
 
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs and 
go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.   

 
Thank you for allowing us to participate in your care, we wish 
you all the best! 
 
Followup Instructions:
___